US04199355
Step 1--Preparation of 5-(3-cyano-4-hydroxyphenylazo)-benzene-1,3-disulfonylfluoride
A mixture of 25.7 g. (0.1 mol) 3,5-difluorosulfonylaniline in 100 ml. ethanol and 50 ml. THF is cooled below 10° C. and diazotized by adding 12 g. (0.1+mol) isoamyl nitrite slowly. After the addition, the run is stirred in an ice bath for about 15 min. The solution of diazonium salt is added in portions to a mixture of 11.9 g. (0.1 mol) of o-cyanophenol in 120 ml. mixed acid (1 volume propionic acid and 5 volumes acetic acid) that have been converted to a solution with 25 ml. pyridine and cooled below 10° C. in an ice bath. The coupled mixture is stirred until all of the ice in the bath has melted. Stirring is continued for about 50 hr. at room temperature. Then the run is poured into 1.5 l. water and the insoluble oil is extracted with several portions of ethyl acetate. The combined extracts are washed with three portions of dilute HCl, dried and concentrated. The residue is treated with toluene and concentrated several times to remove acetic and/or propionic acid. The dark oil that remains is dissolved in dichloromethane, applied to a column of Florisil, and eluted with ethyl acetate. The yield of product is 2.8 g.

reactant | 3,5-difluorosulfonylaniline | 0.1 mol | FS(=O)(=O)C=1C=C(N)C=C(C1)S(=O)(=O)F | C6H5F2NO4S2
reactant | isoamyl nitrite | N(=O)OCCC(C)C | C5H11NO2
reactant | o-cyanophenol | 0.1 mol | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | propionic acid | C(CC)(=O)O | C3H6O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | THF | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | 5-(3-cyano-4-hydroxyphenylazo)-benzene-1,3-disulfonylfluoride | C(#N)C=1C=C(C=CC1O)N=NC=1C=C(C=C(C1)S(=O)(=O)F)S(=O)(=O)F | C13H7F2N3O5S2
